US06476029B1
2-Heptanoylamino-propionic acid
30 g (291 mmol) of methyl D,L-alaninate hydrochloride and 64.77 g (640 mmol) of triethylamine are initially charged in 300 ml of dry methylene chloride, at 0° C. 43.24 g (291 mmol) of heptanoyl chloride in 50 ml of methylene chloride are added dropwise. The mixture is allowed to warm to room temperature and stirred at this temperature for 2 h. The precipitate is filtered off, and the methylene chloride phase is extracted with saturated sodium bicarbonate solution and with saturated sodium chloride solution and dried over sodium sulphate. The solvent is removed under reduced pressure and the residue is dissolved in 300 ml of methanol. 300 ml of water, in which 46.55 g (1164 mmol) of sodium hydroxide are dissolved, is added to this solution, and the mixture is stirred at RT for 2 h. The mixture is filtered, the methanol is removed using a rotary evaporator and the aqueous phase that remains is acidified with conc. Hcl to pH 1-2. The precipitated product is filtered off and dried. A second product fraction is obtained by extracting the aqueous phase with ethyl acetate.

reactant | methyl D,L-alaninate hydrochloride | 291 mmol, 30 g | Cl.NC(C)C(=O)OC
reactant | triethylamine | 640 mmol, 64.77 g | C(C)N(CC)CC | C6H15N
reactant | heptanoyl chloride | 291 mmol, 43.24 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | sodium hydroxide | 1164 mmol, 46.55 g | [OH-].[Na+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | 2-Heptanoylamino-propionic acid | C(CCCCCC)(=O)NC(C(=O)O)C | C10H19NO3
